2153-08-16 11:33:00 Physician Attending Progress Note
Chief Complaint: DIC, bleeding (hemoptysis and hematuria), sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo M w/ met esoph ca c/b recurrent  DIC presents with fever, sepsis
   and bleeding (hematuria and hemoptysis)
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2153-8-15**] 03:37 PM
 ULTRASOUND - At [**2153-8-15**] 09:50 PM
 FEVER - 101.4
F - [**2153-8-15**] 10:00 PM
   Received 1 unti plts, 2 ffp, vit K PO
   [**Year (4 digits) 4137**] ultrasound neg for acute biliary process, midlly thickened gbw,
   sludge, no evidence cholecystitis
   Vanco/zosyn w/ azithro empirically
   Onc rec to continue with chemo
   Desat to high 80% range transiently, able to cough thick rusty sputum
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-8-15**] 05:00 PM
   Vancomycin - [**2153-8-16**] 08:48 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-8-16**] 08:48 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-16**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 118 (93 - 118) bpm
   BP: 135/66(84) {102/55(67) - 147/82(96)} mmHg
   RR: 26 (19 - 27) insp/min
   SpO2: 91% 3L NC
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 97.1 kg
             Total In:
                                                                  2,150 mL
                                                                    319 mL
   PO:
             TF:
   IVF:
                                                                  1,350 mL
                                                                    319 mL
   Blood products:
                                                                    800 mL
   Total out:
                                                                    750 mL
                                                                    950 mL
   Urine:
                                                                    750 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,400 mL
                                                                   -632 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Abdominal: Soft, Bowel sounds present, Tender: [**Year (4 digits) **]
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   51 K/uL
   135 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   24 mg/dL
   104 mEq/L
   138 mEq/L
   26.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2153-8-15**]  05:15 PM
                             [**2153-8-15**]  10:14 PM
                             [**2153-8-16**]  04:01 AM
   WBC
   4.7
   5.4
   4.2
   Hct
   28.2
   28.7
   26.5
   Plt
   48
   55
   51
   Cr
   0.7
   0.7
   Glucose
   140
   135
   Other labs: PT / PTT / INR:17.0/30.6/1.5, ALT / AST:135/304 (sl up),
   Alk Phos / T Bili:202/2.8 (sl up), Amylase / Lipase:19/12,
   Differential-Neuts:88.0 %, Band:2.0 %, Lymph:6.0 %, Mono:4.0 %, Eos:0.0
   %, Fibrinogen:209 mg/dL, Albumin:3.4 g/dL, LDH:1610 IU/L, Ca++:8.5
   mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: in bili 1.2
   cea > 9900 ([**8-7**] 4000)
   Imaging: CXR--b/l ASD, appears unchanged from
       yesterday
   shoulder xray no effusions
   Microbiology: urine lg neg, bl/urine pending
   viral panel neg
   Assessment and Plan
   63 yo M w/ met esoph ca c/b DIC presents with
          Early sepsis (fevers, tachy)
          Scant hemoptysis
          Pulm infiltrates (? Infection, DAH)
          Hematuria
          DIC (thrombocytopenia, coagulopathy)
          shoulder pain/r 4th digit pain
          constipation
   Fevers, tachycardia c/w sepsis with most likely sources being lung or
   biliary system.  Tachycardia also concerning for bleeding noting scant
   hemoptysis, hematuria, with DIC (thrombocytopenia / coagulopathy).
   Agree with plan to continue antibx (vanco, zosyn and azithro) following
   cx data given fevers.  Viral panel and urine lg neg.  [**Month/Year (2) 4137**] us without
   evidence of biliary process.  Low clinical suspicion for PCP.  [**Name10 (NameIs) 1204**]
   [**Name11 (NameIs) 4137**] findings, inflammatory etioogies of LFT abnl need to be considered
   and we have sent hep serologies.  ? related to underlying
   hemachromatosis or immunologic etiologies which we will prusue furtehr
   pednign viral serology results. Continue to trend labs and follow abd
   exam. Not hypotensive and will hold on CVL placement in setting of DIC.
   Urine outpt adequate.  Shoudler and digit pain concerning for bleeding
   as well as possible infection if bacteremic but no evidence of effusion
   on imaging.  Hemoptysis and hematuria in setting of DIC. Will review
   literature and d/w onc role for high dose steroids in the setting of
   alveolar hemorrhage  in this setting.  Temporizing with producte for
   DIC correction and conrtinuing his chemo to manage at this time. Low
   threshold for intubation if his resp status worsens in whiuch case
   would cosnider bornch but high concner for causing increased airway
   trauma and bleeding in setting of his underlying DIC and would hold on
   bronch unless intubated,. etiologyCheck cbcs and DIC labs Q 6. Keep T
   and cross. Transfuse to maintain fibrinogen > 100, plts > 50, INR < 1.5
   and give plts, vit K and FFP. Additonal onc recs. His Hemoptysis in
   setting of coaulopathy and thrombocytopenia
possibly related to
   infection, DIC, lung mets?. Monitor resp status closely with low
   threshold to intubate for airway control, though at present is satting
   well on minimal NC. Would hold on bronch at this time given risk of
   further airway trauma and bleeding.  Follow cxrs and keep NPO.   His
   constipation is liekly from ileus, narcotics, without sig asbd
   distention. Will check KUB and consider Ctabd if exam changes.  Address
   with onc his regrug, as cocnern for stricutire.
   Remainder of plan as outlined in resident note.
   Patient is critically ill
   Total time: 50 min
   ICU Care
   Nutrition: Clears
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Indwelling Port (PortaCath) - [**2153-8-15**] 03:37 PM
   18 Gauge - [**2153-8-15**] 10:00 PM  2
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-08-16 11:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt had a [** 4137**] ULTRASOUND
 sludge, no obstruction, no liver pathology
   - FEVER - 101.4
F - [**2153-8-15**] 10:00 PM
   - continued vanc/zosyn, added azithromycin for atypical CAP coverage
   - received 1 bag of plts, 2U FFP, 5 PO Vit K, no cryo, no pRBCs
   - onc is following, will do chemo in hospital today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-8-15**] 05:00 PM
   Vancomycin - [**2153-8-16**] 08:48 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-8-16**] 08:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-16**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 118 (93 - 118) bpm
   BP: 135/66(84) {102/55(67) - 147/82(96)} mmHg
   RR: 26 (19 - 27) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 97.1 kg
             Total In:
                                                                  2,150 mL
                                                                    326 mL
   PO:
             TF:
   IVF:
                                                                  1,350 mL
                                                                    326 mL
   Blood products:
                                                                    800 mL
   Total out:
                                                                    750 mL
                                                                    950 mL
   Urine:
                                                                    750 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,400 mL
                                                                   -624 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   GENERAL: appears diaphoretic, A&O x3, no acute distress
   HEENT: no mucosal bleeding
   CHEST: scattered crackles in the mid lung zones bilaterally, no
   wheezing
   COR: RRR, 2/6 systolic murmur with no radiation
   ABD: Soft, non distended, [**Year (4 digits) 4137**] ttp, no rebound or guarding, normoactive
   bowel sounds
   EXT: No edema, clubbing or cyanosis.  ttp of right shoulder joint
   margin, no redness/warmth or swelling of shoulder.  Pain with active
   and passive motion.  Fourth finger of right hand with mild bruising of
   the proximal IP joint, full ROM, nontender
   Labs / Radiology
   47 K/uL
   8.4 g/dL
   135 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   24 mg/dL
   104 mEq/L
   138 mEq/L
   24.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2153-8-15**]  05:15 PM
                             [**2153-8-15**]  10:14 PM
                             [**2153-8-16**]  04:01 AM
                             [**2153-8-16**]  09:50 AM
   WBC
   4.7
   5.4
   4.2
   5.1
   Hct
   28.2
   28.7
   26.5
   24.0
   Plt
   48
   55
   51
   47
   Cr
   0.7
   0.7
   Glucose
   140
   135
   Other labs: PT / PTT / INR:17.0/30.6/1.5, ALT / AST:135/304, Alk Phos /
   T Bili:202/2.8, D. bili 1.3 In bili 1.2,  Amylase / Lipase:19/12,
   Fibrinogen:252 mg/dL, Albumin:3.4 g/dL, LDH:1610 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   CEA: 9978 (up from 4008 in [**8-7**])
   Hep pane pending
   Hapto 27
   Micro:
   Urine legionella neg
   Influenza neg
   Urine cx, blood cx pending
   UA: moderate blood, leuk neg, nitr neg, 0-2 RBC
   Imaging: [**2153-8-15**] CTA chest: (prelim)
   Poor technique/timing of contrast bolus. No PE.
   Bilateral areas of groung glass opacity and interstitial thickening.
   ddx: infection, alveolar hemorrhage (likely in setting of pt's known
   DIC and less likely CHF.
   Emphysema
   Bone mets.
   .
   [**2153-8-15**] CXR: (prelim)
   Slight increase in density of patchy opacity seen at the right mid
   lung, but no change in overall distribution of diffuse opacities.
   .
   [**2153-8-15**] shoulder xray (prelim):
   Degenerative changes. No fracture seen. No osseous lesions
   .
   [**2153-8-15**] [**Month/Day/Year 4137**] US: (prelim)
   Mildly thickened gallbladder wall with sludge but no evidence of acute
   cholecystitis. Unremarkable liver
   Mr. [**Known lastname 91**] is a 63 y/o male with metastatic esophageal adenocarcinoma
   with extensive bone marrow involvement and secondary DIC admitted with
   fever, hemoptysis, evidence of alveolar hemorrhage and DIC.
   .
   #Sepsis - on admission meets sepsis/sirs criteria with diff for
   infection being pulmonary, UTI, hepato-biliary, gastroenteritis,
   influenza.  Likely pneumonia or hepatitis, as [**Known lastname 4137**] u/s neg for
   cholecystitis/cholangitis, UTI neg for infection, flu swab neg, and no
   h/o diarrhea.  He does have joint pain but no physical evidence to
   suggest septic joint.
   -continue broad abx coverage with vanc/zosyn and azithro for atypical
   coverage
   - consider PCP in [**Name Initial (PRE) **] immunocompromised pt with fever, infiltrates on
   imaging, elev LDH
   -urine legionella is neg, flu is neg
   -f/u blood cx, urine cx
   -f/u Hep panel
   .
   #DIC
 likely secondary to his metastatic esophageal cancer, has
   improved/resolved with chemo in the past.  Currently with evidence of
   active bleeding given non traumatic hematuria and hemoptysis/alveolar
   hemorrhage.
   -DIC parameters improving with transfusion of plts, FFP, vit K
   - will continue with goal of Hct>26, plts > 50, INR> 1.5,
   fibrinogen>100
   - check DIC panel in PM
   - continue chemo per onc reccs
   .
   #Hemoptysis - likely [**1-15**] alveolar hemorrhage from DIC given appearance
   on Chest CT.
   -repeat cxr do not show progressive hemorrhage, pt continues to have
   episodes of hemmoptysis
   - f/u sputum cx
   -transfusions as above
   -intubate if concern for progression of hemorrhage or declining
   respiratory status, consider bronch
   - consider IV steroids for DAH, talk to Onc about the possibility
   .
   #Shoulder pain - concerning for potential bleeding into joint.  No
   evidence of septic joint however also on the differential.
   - xray left shoulder showed no fractures/lesions
   - will consider further imaging with MRI or CT
   .
   #[**Month/Day (2) 4137**] pain/elev LFTs
 diff incl cholecystitis/cholangitis, hepatitis or
   liver abscess.
   -[**Month/Day (2) 4137**] ultrasound was neg for cholecystitis/cholangitis
   - LFTs continue to be elev, pt with no h/o alcohol, has h/o
   hemochromatosis with may contribute
   - f/u Hep panel
   - consider ct scan of abdomen to r/o liver abscess
   - bowel regimen
   .
   #Metastatic esophageal adenocarcinoma - currently getting cycle 6 of
   oxaliplatin and 5FU
   - appreciate Onc recs- will switch to chemo in hospital today
   - CEA is more than doubled in less than 2 wks, Onc may readjust chemo
   doses
   .
   #AVR
 stable, bovine valve, not on any anticoagulation at baseline
   ICU Care
   Nutrition: clear liquids for now
   Glycemic Control: none
   Lines:
   Indwelling Port (PortaCath) - [**2153-8-15**] 03:37 PM
   18 Gauge - [**2153-8-15**] 10:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI [**Hospital1 **] (h/o gi bleed)
   VAP:  na
   Comments:
   Communication: self
   Code status: Full code
   Disposition: ICU

2153-08-17 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2153-8-16**] 09:28 PM
 FEVER - 101.3
F - [**2153-8-16**] 08:00 PM
   [**8-16**]
   -T 101.3 at 8 p.m., blood and urine cx sent
   -KUB normal
   -Hepatitis Panel negative (HAV ab + but IgM -)
   -DIC labs stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-8-16**] 08:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-8-17**] 12:28 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-8-16**] 07:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-17**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.3
C (99.2
   HR: 108 (99 - 118) bpm
   BP: 131/58(77) {111/58(74) - 155/87(103)} mmHg
   RR: 17 (13 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 97.1 kg
             Total In:
                                                                  2,168 mL
                                                                    513 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  1,218 mL
                                                                    513 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                  2,080 mL
                                                                    650 mL
   Urine:
                                                                  2,080 mL
                                                               (200mL/2hr)
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     88 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   Physical Examination
   GENERAL: appears diaphoretic, A&O x3, no acute distress
   HEENT: no mucosal bleeding
   CHEST: scattered crackles in the mid lung zones bilaterally, no
   wheezing
   COR: RRR, 2/6 systolic murmur with no radiation
   ABD: Soft, non distended, RUQ ttp, no rebound or guarding, normoactive
   bowel sounds
   EXT: No edema, clubbing or cyanosis.  ttp of right shoulder joint
   margin, no redness/warmth or swelling of shoulder.  Pain with active
   and passive motion.  Fourth finger of right hand with mild bruising of
   the proximal IP joint, full ROM, nontender
   Labs / Radiology
   63 K/uL
   8.2 g/dL
   140 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   27 mg/dL
   103 mEq/L
   137 mEq/L
   24.7 %
   4.4 K/uL
        [image002.jpg]
                             [**2153-8-15**]  05:15 PM
                             [**2153-8-15**]  10:14 PM
                             [**2153-8-16**]  04:01 AM
                             [**2153-8-16**]  09:50 AM
                             [**2153-8-16**]  01:27 PM
                             [**2153-8-16**]  05:28 PM
                             [**2153-8-17**]  03:17 AM
   WBC
   4.7
   5.4
   4.2
   5.1
   4.6
   4.4
   Hct
   28.2
   28.7
   26.5
   24.0
   26.3
   24.7
   Plt
   48
   55
   51
   47
   82
   67
   63
   Cr
   0.7
   0.7
   0.4
   Glucose
   140
   135
   140
   Other labs:
   PT / PTT / INR:15.2/26.6/1.3,
   CK / CKMB / Troponin-T:244//,
   ALT / AST:135/304, Alk Phos / T Bili:202/2.8,
   Amylase / Lipase:19/12,
   Differential-Neuts:88.0 %, Band:2.0 %, Lymph:6.0 %, Mono:4.0 %, Eos:0.0
   %,
   Albumin:3.4 g/dL, LDH:1610 IU/L, Ca++:8.2 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.1 mg/dL
   Fibrino: 330 (303), FDP 320-640 ([**Telephone/Fax (1) 10143**]), D-Dimer pending
   ([**8-16**]) CEA: 9978 (up from 4008 in [**8-7**])
   HCV ab neg, HAV ab pos, HBsAg/ HBsAb neg
   Hapto 27
   U/A: pH 6.5, sm bld, neg nitrite, 100 pr, neg glc/ketone, sm bili, 4
   urobiln, neg leuk, 1+ RBC and WBC, 1 granular cast
   Micro:
   Urine legionella neg
   Influenza neg
   Urine cx, blood cx pending
Sputum Gram stain: [**10-7**] PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
Sputum Cx pending
CXR Today
Abd XR Yest
   Assessment and Plan
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
 CANCER (MALIGNANT NEOPLASM), BONE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Mr. [**Known lastname 91**] is a 63 y/o male with metastatic esophageal adenocarcinoma
   with extensive bone marrow involvement and secondary DIC admitted with
   fever, hemoptysis, evidence of alveolar hemorrhage and DIC.
   .
   #Sepsis - on admission meets sepsis/sirs criteria with diff for
   infection being pulmonary, UTI, hepato-biliary, gastroenteritis,
   influenza.  Likely pneumonia or hepatitis, as RUQ u/s neg for
   cholecystitis/cholangitis, UTI neg for infection, flu swab neg, and no
   h/o diarrhea.  He does have joint pain but no physical evidence to
   suggest septic joint.
   -continue broad abx coverage with vanc/zosyn and azithro for atypical
   coverage
   - consider PCP in [**Name Initial (PRE) **] immunocompromised pt with fever, infiltrates on
   imaging, elev LDH
   -urine legionella is neg, flu is neg
   -f/u blood cx, urine cx
   -f/u Hep panel
   .
   #DIC
 likely secondary to his metastatic esophageal cancer, has
   improved/resolved with chemo in the past.  Currently with evidence of
   active bleeding given non traumatic hematuria and hemoptysis/alveolar
   hemorrhage.
   -DIC parameters improving with transfusion of plts, FFP, vit K
   - will continue with goal of Hct>26, plts > 50, INR> 1.5,
   fibrinogen>100
   - check DIC panel in PM
   - continue chemo per onc reccs
   .
   #Hemoptysis - likely [**1-15**] alveolar hemorrhage from DIC given appearance
   on Chest CT.
   -repeat cxr do not show progressive hemorrhage, pt continues to have
   episodes of hemmoptysis
   - f/u sputum cx
   -transfusions as above
   -intubate if concern for progression of hemorrhage or declining
   respiratory status, consider bronch
   - consider IV steroids for DAH, talk to Onc about the possibility
   .
   #Shoulder pain - concerning for potential bleeding into joint.  No
   evidence of septic joint however also on the differential.
   - xray left shoulder showed no fractures/lesions
   - will consider further imaging with MRI or CT
   .
   #RUQ pain/elev LFTs
 diff incl cholecystitis/cholangitis, hepatitis or
   liver abscess.
   -RUQ ultrasound was neg for cholecystitis/cholangitis
   - LFTs continue to be elev, pt with no h/o alcohol, has h/o
   hemochromatosis with may contribute
   - f/u Hep panel
   - consider ct scan of abdomen to r/o liver abscess
   - bowel regimen
   .
   #Metastatic esophageal adenocarcinoma - currently getting cycle 6 of
   oxaliplatin and 5FU
   - appreciate Onc recs- will switch to chemo in hospital today
   - CEA is more than doubled in less than 2 wks, Onc may readjust chemo
   doses
   .
   #AVR
 stable, bovine valve, not on any anticoagulation at baseline
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2153-8-15**] 03:37 PM
   18 Gauge - [**2153-8-15**] 10:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI [**Hospital1 **] (h/o GI bleed)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL Code
   Disposition:

2153-08-17 11:58:00 Physician Attending Progress Note
Chief Complaint: DIC, bleeding (hemoptysis and hematuria), sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    63 yo M w/ met esoph ca c/b DIC presents with recurrent dic (hematuria
   and hemoptysis) and fevers
   24 Hour Events:
 BLOOD CULTURED - At [**2153-8-16**] 09:28 PM
 FEVER - 101.3
F - [**2153-8-16**] 08:00 PM
   continues to spike temps, pan cx'd yesterday
   transfused 2 plts, 2 ffp, 1 prbc yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-8-17**] 08:38 AM
   Vancomycin - [**2153-8-17**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-8-16**] 07:58 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-17**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.3
C (99.1
   HR: 103 (99 - 115) bpm
   BP: 132/73(89) {115/58(77) - 155/87(103)} mmHg
   RR: 23 (8 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 97.1 kg
   Height: 69 Inch
             Total In:
                                                                  2,168 mL
                                                                  1,276 mL
   PO:
                                                                    400 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,218 mL
                                                                  1,076 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                  2,080 mL
                                                                  1,050 mL
   Urine:
                                                                  2,080 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     88 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Absent
   Musculoskeletal: stable L should tenderness
   Skin:  Warm
   Neurologic: Attentive, and appropriate
   Labs / Radiology
   8.2 g/dL
   63 K/uL
   140 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   27 mg/dL
   103 mEq/L
   137 mEq/L
   24.7 %
   4.4 K/uL
        [image002.jpg]
                             [**2153-8-15**]  05:15 PM
                             [**2153-8-15**]  10:14 PM
                             [**2153-8-16**]  04:01 AM
                             [**2153-8-16**]  09:50 AM
                             [**2153-8-16**]  01:27 PM
                             [**2153-8-16**]  05:28 PM
                             [**2153-8-17**]  03:17 AM
   WBC
   4.7
   5.4
   4.2
   5.1
   4.6
   4.4
   Hct
   28.2
   28.7
   26.5
   24.0
   26.3
   24.7
   Plt
   48
   55
   51
   47
   82
   67
   63
   Cr
   0.7
   0.7
   0.4
   Glucose
   140
   135
   140
   Other labs: PT / PTT / INR:15.2/26.6/1.3, CK / CKMB / Troponin-T:244//,
   ALT / AST:135/304, Alk Phos / T Bili:202/2.8, Amylase / Lipase:19/12,
   Differential-Neuts:88.0 %, Band:2.0 %, Lymph:6.0 %, Mono:4.0 %, Eos:0.0
   %, Fibrinogen:330 mg/dL, Albumin:3.4 g/dL, LDH:1610 IU/L, Ca++:8.2
   mg/dL, Mg++:2.7 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: fibrinogen 330
   Imaging: cxr-clearer r base, atelectasis, and stable to slight
   improvement in mid zone asd/GGO
   Microbiology: u/a-->1+ rbcs
   urine, bl pending, ngtd, sputum pending
   Assessment and Plan
   63 yo M w/ met esoph ca c/b DIC presents with
          Fevers
          Pulm infiltrates (? Infection, DAH)
              hypoxia
          DIC (thrombocytopenia, coagulopathy)
              Hemoptysis
              hematuria
              LFT abnl with probable liver mets, ruq tenderness
          Shoulder pain/r 4th digit pain
          Constipation/ileus
   Agree with plan to continue current empiric antibx X 48 hrs (vanco,
   zosyn and azithro) though cx data is unrevealing to date giving ongoing
   fevers and immunosupression. In addition to possible pulm source, chemo
   SE and underlying malignancy with BM involvement are potential
   etiologies.   Viral panel and urine lg neg.  Low clinical suspicion for
   PCP but will send DFA from induced sputum. Has LFTs abnl and initially
   concerned of possible biliary source as well. RUQ us without evidence
   of biliary process. Infectious etiologies for LFT with hep panel sent.
    On review of CTA we note evidence of probable liver mets, which likely
   explains both the LFTs fabnl and RUQ tenderness. We continue to monitor
   labs and follow abd exam. Shoulder pain also concerning for bleeding as
   well as possible infection, but no evidence of effusion on imaging. ?
   paraneoplastic synrome or chemo related.
   Hypoxia related to bleeding vs infection.  O2 requirement is stable and
   imaging shows no new focal process with some slight improvement in GGO.
   Hemoptysis and hematuria in setting of  DIC. No clear role for high
   dose steroids which we have d/w onc team, but would use in setting of
   respiratory decompenaation. For now we will continue to support,
   transfuse for DIC/bleeding to maintain fibrinogen > 100, plts > 50, hct
   > 25, INR < 1.5 and give plts, vit K and FFP following [**Hospital1 **] cbc and dic
   labs. Continue chemo. We hold a low threshold to intubate for airway
   control if decline, though at present is satting well on minimal NC. We
   continue to hold off on bronch given risk of further airway trauma and
   bleeding.
   F/u addiitonal onc recs. We note continued disease progression with
   elevated cea.
   His constipation is likely from ileus, narcotics. Kub unimpressive.
   Will give enema and increase bowel reg.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:  clears
advance
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Indwelling Port (PortaCath) - [**2153-8-15**] 03:37 PM
   18 Gauge - [**2153-8-15**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code, continue to address goals of care with pt and
   onc service given evidence of ds progression.
   Disposition : d/w onc regarding transfer to oncology floor.
   Total time spent: 40 minutes